US05344845
5N hydrochloric acid-methanol was added to a solution of 19.6 ml of benzylamine in 75 ml of methanol under ice-cooling, neutralizing the solution. Then, 5.1 g of methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate and 1.13 g of sodium cyanoborohydride were added to the mixture solution. The solution was reacted at room temperature for 26 hours. After reaction, concentrated hydrochloric acid was added to the reaction solution, adjusting the pH value to 2 or less. The solution was washed three times with 30 ml of methylene chloride. Further, a 2N aqueous sodium hydroxide solution was added to the aqueous layer formed, adjusting the pH value to 10 or more. The solution was extracted three times with 30 ml of ethyl acetate. The organic layer obtained was washed twice with an aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo. The oily substance, thus obtained, was subjected to column chromatography using 50 g of silica gel. From the fraction eluted with hexane and ethyl acetate=4:1, the solvent was removed in vacuo, yielding 3.1 g of methyl 4-(N-benzylamino)-1-methyl-1-cyclohexanecarboxylate as a colorless oil, which had the following physiochemical properties:

reactant | hydrochloric acid methanol | 5N | Cl.CO
reactant | benzylamine | 19.6 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl 1-methyl-4-oxo-1-cyclohexanecarboxylate | 5.1 g | CC1(CCC(CC1)=O)C(=O)OC | C9H14O3
reactant | sodium cyanoborohydride | 1.13 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
product | methyl 4-(N-benzylamino)-1-methyl-1-cyclohexanecarboxylate | 3.1 g | C(C1=CC=CC=C1)NC1CCC(CC1)(C(=O)OC)C | C16H23NO2
